US06498172B1
(3-{[(4-Pyrazol-1-yl-benzyl)-(pyrrolidine-1-carbonyl)-amino]-methyl}-phenoxy)-acetic acid tert-butyl ester
A solution of {3-[(4-pyrazol-1-yl-benzylamino)-methyl]-phenoxy}-acetic acid tert-butyl ester (15 mg, 0.038 mmol), prepared in Step A of Example 13a, pyrrolidine-1-carbonyl chloride (5 eq), and triethylamine (5 eq) in CH2Cl2 (1-2 mL) was stirred at room temperature for 72 h. Additional pyrrolidine-1-carbonyl chloride (5 eq) and triethylamine (5 eq) were added and the reaction was stirred for 24 h followed by addition of tris (2-aminoethyl)amine on polymer support. The reaction was stirred for 24 h and the resin was removed by filtration with the aid of CH2Cl2. The organic solution was washed sequentially with 5.5% aqueous HCl and saturated NaHCO3 solution. The organic solution was concentrated and was used in Step B without further purification.

reactant | {3-[(4-pyrazol-1-yl-benzylamino)-methyl]-phenoxy}-acetic acid tert-butyl ester | 0.038 mmol, 15 mg | C(C)(C)(C)OC(COC1=CC(=CC=C1)CNCC1=CC=C(C=C1)N1N=CC=C1)=O | C23H27N3O3
reactant | pyrrolidine-1-carbonyl chloride | 5 eq | N1(CCCC1)C(=O)Cl | C5H8ClNO
reactant | triethylamine | 5 eq | C(C)N(CC)CC | C6H15N
reactant | pyrrolidine-1-carbonyl chloride | 5 eq | N1(CCCC1)C(=O)Cl | C5H8ClNO
reactant | triethylamine | 5 eq | C(C)N(CC)CC | C6H15N
reactant | tris (2-aminoethyl)amine | NCCN(CCN)CCN | C6H18N4
solvent | CH2Cl2 | 1-2 mL | C(Cl)Cl | CH2Cl2
product | (3-{[(4-Pyrazol-1-yl-benzyl)-(pyrrolidine-1-carbonyl)-amino]-methyl}-phenoxy)-acetic acid tert-butyl ester | C(C)(C)(C)OC(COC1=CC(=CC=C1)CN(C(=O)N1CCCC1)CC1=CC=C(C=C1)N1N=CC=C1)=O | C28H34N4O4
